US07629363B2
A mixture of 5-fluoro-2-methylbenzonitrile (2.0 g, 0.015 mol), NBS (3.2 g, 0.018 mol) and benzoylperoxide (0.25 g) in carbontetrachloride (25.0 ml) was heated to reflux for 6 h, under argon atmosphere. The reaction mixture was cooled and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by flash chromatography (5% EtOAc in hexane) to afford 2-(Bromomethyl)-5-fluorobenzonitrile (1.9 g, 60%) as a colorless liquid: 1H NMR (CDCl3/400 MHz) δ7.59 (m) 7.58 (m, 1H), 7.38 (m, 1H), and 7.25 (m, 1H).

reactant | 5-fluoro-2-methylbenzonitrile | 0.015 mol, 2.0 g | FC=1C=CC(=C(C#N)C1)C | C8H6FN
reactant | NBS | 0.018 mol, 3.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoylperoxide | 0.25 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbontetrachloride | 25.0 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(Bromomethyl)-5-fluorobenzonitrile | 1.9 g, 60% | BrCC1=C(C#N)C=C(C=C1)F | C8H5BrFN
